US08283353B2
4′-{[7-butyl-4-(trans-4-hydroxycyclohexyl)-5-oxo-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
To a solution of 4′-{[7-butyl-4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (3.6 g) in tetrahydrofuran (40 mL) was added 3M hydrochloric acid (40 mL), and the mixture was stirred at 70° C. for 2 hr. The mixture was allowed to cool, and diluted with ethyl acetate, and the mixture was neutralized with 8M aqueous sodium hydroxide solution. The mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was dissolved in ethanol (20 mL)-tetrahydrofuran (20 mL). Thereto was added sodium borohydride (0.26 g) at 0° C. After stirring for 1 hr, ethyl acetate and saturated aqueous ammonium chloride solution were added. The mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (2.9 g, 87%).

reactant | 4′-{[7-butyl-4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 3.6 g | C(CCC)C1=C(C(N(C=2N1N=CC2)C2CCC1(OCCO1)CC2)=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N | C32H34N4O3
reactant | hydrochloric acid | 3M, 40 mL | Cl | ClH
reactant | sodium hydroxide | 8M | [OH-].[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-{[7-butyl-4-(trans-4-hydroxycyclohexyl)-5-oxo-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 2.9 g, 87% | C(CCC)C1=C(C(N(C=2N1N=CC2)[C@@H]2CC[C@H](CC2)O)=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N | C30H32N4O2
